US08492543B2
Synthesis of [4-(3-aminophenyl)-6,7-dimethoxyquinazolin-2-yl]methylamine
To 354 mg (1.00 mmol) of N-[3-(2-chloro-6,7-dimethoxyquinazolin-4-yl)phenyl]formamide, tetrahydrofuran (2.06 mL), and methanol (1.03 mL) was added a methanol solution (2.06 mL) of 40% methylamine, and the mixture was reacted at 90° C. for 12 hours. The reaction mixture was allowed to cool and then poured into a mixed solution of ethyl acetate (30 mL), tetrahydrofuran (30 mL), and 5% w/w sodium chloride solution (30 mL) to extract the organic layer. The organic layer was washed with 5% w/w sodium chloride solution (30 mL) and then concentrated under reduced pressure. To the concentration residue was added ethyl acetate (1.5 mL), and the mixture was crystallized with a spatula followed by stirring at 50° C. for 1.5 hours. To this suspension was dropwise added t-butyl methyl ether (1.5 mL), and the mixture was further stirred for 1 hour and allowed to cool gradually. The precipitated crystals were collected by filtration and dried to give 288 mg of a target product (yield: 90.5%).

reactant | N-[3-(2-chloro-6,7-dimethoxyquinazolin-4-yl)phenyl]formamide | 1.00 mmol, 354 mg | ClC1=NC2=CC(=C(C=C2C(=N1)C=1C=C(C=CC1)NC=O)OC)OC | C17H14ClN3O3
reactant | methylamine | CN | CH5N
reactant | sodium chloride | 30 mL | [Cl-].[Na+]
reactant | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | methanol | 2.06 mL | CO | CH4O
solvent | methanol | 1.03 mL | CO | CH4O
solvent | tetrahydrofuran | 2.06 mL | O1CCCC1 | C4H8O
product | [4-(3-aminophenyl)-6,7-dimethoxyquinazolin-2-yl]methylamine | 288 mg, yield: 90.5% | NC=1C=C(C=CC1)C1=NC(=NC2=CC(=C(C=C12)OC)OC)CN | C17H18N4O2
